data/core_train_final.csv
"[H:10][C:9]1=[C:11]2[CH:16]=[CH:15][CH:14]=[CH:13][C:12]2[C:2](=[O:1])[C:3]3=[CH:4][CH:5]=[CH:6][CH:7]=[C:8]13>>[H:10][C:9]1[C:11]2=[C:12]([CH:13]=[CH:14][CH:15]=[CH:16]2)[C:2](=[O:1])[C:3]3=[CH:4][CH:5]=[CH:6][CH:7]=[C:8]13 12-11,12; 9,11-11,12; 9,11-9",Room Temperature,Propagation,resonance
"[H:29][CH:28]1[CH2:27][CH2:26][C:18]([N:30]1[C:31](=[O:38])[C:32]2=[C:33][CH:34]=[CH:35][CH:36]=[CH:37]2)([CH2:19][C:20]#[C:21][Si:22]([CH3:23])([CH3:24])[CH3:25])[C:17](=[O:39])[O:16][CH3:15].[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])([CH2:11][CH2:12][CH2:13][CH3:14])[Br:10]>>[H:29][C:33]1=[C:32]([CH:37]=[CH:36][CH:35]=[CH:34]1)[C:31](=[O:38])[N:30]2[CH:28][CH2:27][CH2:26][C:18]2([CH2:19][C:20]#[C:21][Si:22]([CH3:23])([CH3:24])[CH3:25])[C:17](=[O:39])[O:16][CH3:15].[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])([CH2:11][CH2:12][CH2:13][CH3:14])[Br:10] 33-33,29;29,28-29,33;29,28-28",Room Temperature,Propagation,abstraction
"C1CC(=O)[N:20](C1=O)[Br:21]>>C1CC(=O)[N:20]C1=O.[Br:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:6][Sn:7]([CH2:8][CH2:9][CH2:10][CH3:11])([CH2:12][CH2:13][CH2:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH3:19].[CH3:4][C:3]([CH3:5])[C:2]#[N:1]>>[H:6][C:3]([CH3:4])([CH3:5])[C:2]#[N:1].[CH3:11][CH2:10][CH2:9][CH2:8][Sn:7]([CH2:12][CH2:13][CH2:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH3:19] 3-3,6; 6,7-3,6; 6,7-7",Room Temperature,Propagation,abstraction
"CC(=CCC/[C:21](=[CH:20]/CCC(C)([C:10]=C[Sn](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)O)/C)C>>CC(=CCC[C:21](C)[CH:20]1CCC(C)([C:10]1=C[Sn](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH3:21].[Cl:10].[Ar]>>[Ar].[H:20][Cl:10].[CH3:21] 10-10,20;20,21-10,20;20,21-21",Heat,Propagation,abstraction
"[CH2:10]C1=CC=CC=C1.[N:20]=O>>C1=CC=C(C=C1)[CH2:10][N:20]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCC.[Br:20][Br:21].[Ar]>>[Ar].CCCCCC.[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[H:20][S:21]CCCCCCCCCCCC.C[C:10](C)C#N>>[H:20][C:10](C)(C)C#N.CCCCCCCCCCCC[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3](=[C:2]([O-:1])[O:15])[CH:5]=[C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12]>>[H:4][C:3]([CH:5]=[C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12])[C:2](=[O:15])[O-:1] 15-2,15; 2,3-2,15; 2,3-3",Room Temperature,Propagation,resonance
"[CH2:10]C1=CC=CC=C1.[Cl:20][Cl:21]>>C1=CC=C(C=C1)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:21]=[CH2:20].CC(C)CC(C)[CH2:10]>>C[CH:21][CH2:20][CH2:10]C(C)CC(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:5][C:4]([CH2:3][CH2:2][CH3:1])[C:6]([H:7])([CH3:8])[Br:9].[H:10][Br:11]>>[H:5][C:4]([H:10])([CH2:3][CH2:2][CH3:1])[C:6]([H:7])([CH3:8])[Br:9].[Br:11] 11,10-10,4;4-10,4;11,10-11",Room Temperature,Propagation,abstraction
"[H:17][C:16]1[CH:15]=[CH:14][CH:13]=[CH:12][C:11]1=[C:9]2[C:8](=[O:18])[C:7](=[O:19])[C:6]3=[C:4]([CH:3]=[C:2]([CH:21]=[C:20]3[O:10]2)[OH:1])[OH:5]>>[H:17][C:16]1=[C:11]([CH:12]=[CH:13][CH:14]=[CH:15]1)[C:9]2[C:8](=[O:18])[C:7](=[O:19])[C:6]3=[C:4]([CH:3]=[C:2]([CH:21]=[C:20]3[O:10]2)[OH:1])[OH:5] 16-16,11; 9,11-11,16; 9,11-9",Room Temperature,Propagation,resonance
"[H:8][C:7]1[CH:6]=[C:5]([CH:13]=[C:10]([C:9]1=[O:14])[O:11][CH3:12])[CH:4]=[CH:3][C:2](=[O:15])[O-:1]>>[H:8][C:7]1=[CH:6][C:5]([CH:13]=[C:10]([C:9]1=[O:14])[O:11][CH3:12])[CH:4]=[CH:3][C:2](=[O:15])[O-:1] 7-6,7; 5,6-6,7; 5,6-5",Room Temperature,Propagation,resonance
"[CH3:10][C:9]1([O:8][O:7][C:6]([O:5][O:4][C:3]([O:2][O:1]1)([CH3:14])[CH3:15])([CH3:12])[CH3:13])[CH3:11]>>[CH3:12][C:6]([CH3:13])([O:7])[O:5][O:4][C:3]([CH3:15])([CH3:14])[O:2][O:1][C:9]([CH3:10])([CH3:11])[O:8] 7,8-8; 7,8-7",Room Temperature,Initiation,homolyze
"C1=CC=C2C3=C(C=CC=C3)[CH:20]C2=C1.[Br:10]>>C1=CC=C2C3=C(C=CC=C3)[CH:20](C2=C1)[Br:10] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][Br:21].C[C:10]1CCCC1Br>>[H:20][C:10]1(CCCC1Br)C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21]1(CCCC1=O)CCC[C:10]=CSC2=CC=CC=C2>>[H:20][C:10](=CSC1=CC=CC=C1)CCC[C:21]2CCCC2=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=C(C)[C:10](C)C)C.[Br:20][Br:21]>>CC(=C(C)[C:10](C)(C)[Br:20])C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:21](=[O:20])C.C[C](C)O[Mg:10]>>C[C:21](C)[O:20][Mg:10]O[C](C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[O][O:20][Cl:21].[Cl]>>[O][O:20].[Cl:21].[Cl] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[O:10]C(C)(C)C.[H:20][S:21]CC>>CC(C)(C)[O:10][H:20].[S:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH2:10].[Cl:20]>>C[CH2:10][Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
